US04243665
2-[2-(Thiamorpholin-4-yl)-1-methylethyl]-6-methoxynaphthalene
Oxalyl chloride (10 ml) is added dropwise to a suspension of 2-(6-methoxynaphth-2-yl)-propionic acid (17.4 g, 75.6 mmols) in benzene (200 ml). After refluxing for 2 hours, the benzene is evaporated off under reduced pressure and the residue is taken up in alcohol-free methylene chloride (100 ml). This solution is added dropwise, in the course of 30 minutes, to a cooled suspension (0° C.) of thiamorpholine hydrochloride (11.6 g, 83.16 mmols) and N-ethylmorpholine (19.12 g, 166 mmols) in methylene chloride (100 ml). After standing overnight, the reaction medium is washed successively with water, hydrochloric acid (10% strength), water, aqueous sodium bicarbonate solution (saturated) and water and then dried (Na2SO4) and evaporated. This yields a solid which is the intermediate (IV). A solution of this amide (5.60 g, 17.78 mmols) in tetrahydrofuran (50 ml) is added dropwise to a stirred solution of borane (55 mmols) in tetrahydrofuran (50 ml), which has been cooled to 0° C. The solution is then heated at the reflux temperature for 2 hours and again cooled to 0° C. Water is then added cautiously in order to destroy the excess borane, and dilute hydrochloric acid is added.

reactant | Oxalyl chloride | 10 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(6-methoxynaphth-2-yl)-propionic acid | 75.6 mmols, 17.4 g | COC=1C=C2C=CC(=CC2=CC1)C(C(=O)O)C | C14H14O3
reactant | thiamorpholine hydrochloride | 83.16 mmols, 11.6 g | Cl.N1CCSCC1
reactant | N-ethylmorpholine | 166 mmols, 19.12 g | C(C)N1CCOCC1 | C6H13NO
reactant | borane | 55 mmols | B | BH3
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 2-[2-(Thiamorpholin-4-yl)-1-methylethyl]-6-methoxynaphthalene | N1(CCSCC1)CC(C)C1=CC2=CC=C(C=C2C=C1)OC | C18H23NOS
